US07217737B2
M31: (E) 3 (3,5-dimethyl-4-hydroxyphenyl)-2-(phenylsulfonyl)acrylonitrile)
M31 was prepared with 3,5-dimethyl-4-hydroxybenzaldehyde and phenylsulfonly acetonitrile under similar conditions as decribed for M26.

reactant | 3,5-dimethyl-4-hydroxybenzaldehyde | CC=1C=C(C=O)C=C(C1O)C | C9H10O2
reactant | phenylsulfonly acetonitrile | C1(=CC=CC=C1)S(=O)(=O)CC#N | C8H7NO2S
product | (3,5-dimethyl-4-hydroxyphenyl)-2-(phenylsulfonyl)acrylonitrile | CC=1C=C(C=C(C1O)C)C=C(C#N)S(=O)(=O)C1=CC=CC=C1 | C17H15NO3S
